US08212041B2
4) 7-methoxy-N-((6-(3-methylisothiazol-5-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)-1,5-naphthyridin-4-amine
(6-(3-methylisothiazol-5-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methanamine (548 mg, 2225 μmol) and 8-chloro-3-methoxy-1,5-naphthyridine (576 mg, 2959 μmol) were charged in a microwave vial. 2-butanol (7 mL) was added and the reaction mixture was stirred at 120° C. under micro-waves irradiation for 8 h. 2M NH3 in MeOH was added. Purification by MPLC (DCM/MeOH+1% NH4OH: 100/0 to 90/10) afforded the title compound (720 mg, 80% yield). MS m/z=405.1 [M+H]+. Calc'd for C19H16N8OS: 404.46

reactant | (6-(3-methylisothiazol-5-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methanamine | 2225 μmol, 548 mg | CC1=NSC(=C1)C=1C=CC=2N(N1)C(=NN2)CN | C10H10N6S
reactant | 8-chloro-3-methoxy-1,5-naphthyridine | 2959 μmol, 576 mg | ClC=1C=CN=C2C=C(C=NC12)OC | C9H7ClN2O
reactant | 2-butanol | 7 mL | CC(CC)O | C4H10O
reactant | NH3 | 2M | N | H3N
solvent | MeOH | CO | CH4O
product | 7-methoxy-N-((6-(3-methylisothiazol-5-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)-1,5-naphthyridin-4-amine | 720 mg, 80% yield | COC1=CN=C2C(=CC=NC2=C1)NCC1=NN=C2N1N=C(C=C2)C2=CC(=NS2)C | C19H16N8OS
